US04147863
To 130 ml of anhydrous tetrahydrofuran was added 5.35 g of benzhydryl 7-phenoxyacetamido-3-formyl-3-cephem-4-carboxylate-1-oxide, and, after cooling to -5°--10° C., further added 4.3 g of (1-methyl-1H-tetrazol-5-yl)methylenetriphenylphosphorane. The mixture was stirred at that temperature for 5 hours and poured into a mixture of ethyl acetate and ice-water. The resulting mixture was then made acidic with 10 ml of 5% hydrochloric acid. The organic layer was washed with five portions of a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to leave a solid residue. The residue was, after addition of approximately 30 ml of methanol, stirred at room temperature for 20 minutes and filtered leaving a precipitate. There was obtained 3.62 g of benzhydryl 7-phenoxyacetamido-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate-1-oxide as a crystalline powder. The filtrate was evaporated under redueced pressure to dryness, and the obtained residue was developed through silica gel column with ethyl acetate to give 600 mg of the crystals additionally.

reactant | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
reactant | benzhydryl 7-phenoxyacetamido-3-formyl-3-cephem-4-carboxylate-1-oxide | 5.35 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)C=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H24N2O7S
reactant | (1-methyl-1H-tetrazol-5-yl)methylenetriphenylphosphorane | 4.3 g | CN1N=NN=C1C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19N4P
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | approximately 30 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-phenoxyacetamido-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate-1-oxide | 3.62 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)C=CC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H28N6O6S
